US04129594
Following the general procedure in Example 1 for the preparation of the diacid chloride, 8.93 parts of terephthalic acid were added to a mixture of 16.47 parts of N,N-dimethyl aniline and 12.8 parts phosgene in 200 parts dry dichloromethane at 25° to 30° C. The ratio of equivalents of dimethylaniline base/COOH acid group was 1.26. After carrying out the reaction and esterifying the resulting diacid chloride by the procedure described in Example 1, 9.87 parts of a solid containing 95.4% dimethyl terephthalate was obtained corresponding to a 90.2% yield of theory of terephthaloyl chloride formed initially in the reaction.

reactant | terephthalic acid | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
reactant | N,N-dimethyl aniline | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | dimethyl terephthalate | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | dichloromethane | ClCCl | CH2Cl2
product | terephthaloyl chloride | 90.2% yield | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
